US07629346B2
2-Amino-1,1-dicyclopropyl-ethanol
To a solution of 0.28 g 1,1-dicyclopropyl-2-dibenzylamino-ethanol (0.00087 mol) in 10 ml methanol was added 0.060 g Pd(OH)2/charcoal (Fluka 7663; 20%) and the mixture was hydrogenated under 8 bar hydrogen pressure at 60° C. for 2 hours. The catalyst was removed by filtration and the mother liquor was concentrated and the residue was purified by chromatography on silicagel with MeCl2/MeOH/NH3 90:10:1 to yield 0.10 g (81% yield) of the title compound as colorless oil. 1H-NMR (CDCl3 300 MHz, δ ppm) 0.28-0.45 (m, 8H); 0.71-0.78 (m, 2H); 2.77 (s, 2H) ppm.

reactant | 1,1-dicyclopropyl-2-dibenzylamino-ethanol | 0.00087 mol, 0.28 g | C1(CC1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)(O)C1CC1 | C22H27NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd(OH)2 charcoal | 0.060 g | [OH-].[OH-].[Pd+2].C
product | 2-Amino-1,1-dicyclopropyl-ethanol | 0.10 g, 81% yield | NCC(O)(C1CC1)C1CC1 | C8H15NO
